US09376422B2
Step 4: Synthesis of 3-[benzyl(ethyl)amino]-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-2-methylbenzamide
To a stirred solution of (3-[benzyl(ethyl)amino]-2-methylbenzoic acid (91% purity, 296 mg, 1.0 mmol) in DMF (10 ml) was added DIPEA (440 μl, 2.5 mmol) and HATU (570 mg, 1.5 mmol). The reaction was stirred at room temperature for 5 min after which time 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one (89%, 222 mg, 1.3 mmol) was added and the reaction was stirred at room temperature for 16 h. The reaction mixture was then poured onto 150 ml of water and stirred for 20 min. The product was filtered, air dried under vacuum and then purified using RP-HPLC. The resulting solid was triturated with diethyl ether and isolated by filtration to afford the title compound as an off white solid (86 mg, 21%). LC-MS 99%, m/z=404.3, 1H NMR (500 MHz, Chloroform-d) δ 12.04 (s, 1H), 7.33-7.23 (m, 4H), 7.21 (t, J=6.8 Hz, 1H), 7.14-7.05 (m, 3H), 7.05-6.99 (m, 1H), 5.92 (s, 1H), 4.53 (d, J=5.9 Hz, 2H), 4.06 (s, 2H), 2.92 (q, J=6.9 Hz, 2H), 2.41 (s, 3H), 2.39 (s, 3H), 2.16 (s, 3H), 0.92 (t, J=7.0 Hz, 3H).

reactant | 3-[benzyl(ethyl)amino]-2-methylbenzoic acid | 1.0 mmol, 296 mg | C(C1=CC=CC=C1)N(C=1C(=C(C(=O)O)C=CC1)C)CC | C17H19NO2
reactant | DIPEA | 2.5 mmol, 440 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.5 mmol, 570 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-(aminomethyl)-4,6-dimethyl-1,2-dihydropyridin-2-one | 1.3 mmol, 222 mg | NCC=1C(NC(=CC1C)C)=O | C8H12N2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 150 ml | O | H2O
product | 3-[benzyl(ethyl)amino]-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-2-methylbenzamide | C(C1=CC=CC=C1)N(C=1C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C=CC1)C)CC | C25H29N3O2
